US04769464
p-nitrobenzaldehyde
224 g of p-nitrostyrene are dissolved in 1 liter of methanol and reacted with ozone and subsequently hydrogenated analogously to the procedure indicated in Example 1. The absorption of hydrogen is 31.4 standard liters, corresponding to 93.4% of theory.

reactant | p-nitrostyrene | 224 g | [N+](=O)([O-])C1=CC=C(C=C)C=C1 | C8H7NO2
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | 1 liter | CO | CH4O
product | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
